US06316479B1
N-[4-(Trifluoromethyl)phenyl]-2-(ethoxymethylene)-acetoacetamide (4 g) is suspended in 10 mL of ethanol treated with 1.5 g of hydroxylamine hydrochloride in 10 mL of water which has been adjusted to pH 5 with sodium hydroxide. The mixture is stirred and warmed to 40° C. for 2 hours, then cooled to room temperature and the precipitate collected by vacuum filtration. Sodium hydroxide (1 g) is added to the filtrate which is stirred for 30 minutes. The mixture is acidified to pH 2 with 6 N hydrochloric acid and the precipitate collected by vacuum filtration. The filtrate is then diluted with 100 mL of water and allowed to stand at 4° C. overnight. The precipitate is collected by vacuum filtration, washed with ethanol:water 2:1 and dried to give 300 mg of crude 3-methyl-4-[4-(trifluoromethyl)phenylaminocarbonyl]isoxazole. The crude is purified on a column of silica gel eluting with ethyl acetate:hexane 1:4 to give 100 mg of 3-methyl-4-[4-(trifluoromethyl)phenylaminocarbonyl]isoxazole, an off-white solid.

reactant | N-[4-(Trifluoromethyl)phenyl]-2-(ethoxymethylene)-acetoacetamide | 4 g | FC(C1=CC=C(C=C1)NC(C(C(=O)C)=COCC)=O)(F)F | C14H14F3NO3
reactant | hydroxylamine hydrochloride | 1.5 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 3-methyl-4-[4-(trifluoromethyl)phenylaminocarbonyl]isoxazole | 300 mg | CC1=NOC=C1C(=O)NC1=CC=C(C=C1)C(F)(F)F | C12H9F3N2O2
